US05726306
(2) 5-chloro-α-(2-chlorophenyl)-2-(2,2,2-trifluoroethylamino)benzyl alcohol
To a suspension of 0.25 g of lithium aluminum hydride in 20 ml of absolute ethyl ether, a solution of 1.2 g of 5-chloro-α-(2-chlorophenyl)-2-(trifluoroacetylamino)benzyl alcohol in 5 ml of tetrahydrofuran was added dropwise. After mixture stirring at room temperature for 1 hour, water was added, and the organic layer was dried, after which the solvent was removed and the residue was subjected to silica gel column chromatography to yield 1.0 g of an oily compound.

reactant | lithium aluminum hydride | 0.25 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 5-chloro-α-(2-chlorophenyl)-2-(trifluoroacetylamino)benzyl alcohol | 1.2 g | ClC=1C=CC(=C(C(C2=C(C=CC=C2)Cl)O)C1)NC(C(F)(F)F)=O | C15H10Cl2F3NO2
reactant | water | O | H2O
solvent | ethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 5-chloro-α-(2-chlorophenyl)-2-(2,2,2-trifluoroethylamino)benzyl alcohol | 1.0 g | ClC=1C=CC(=C(C(C2=C(C=CC=C2)Cl)O)C1)NCC(F)(F)F | C15H12Cl2F3NO
